US07745641B2
In a similar manner to Step 2 of Example 161, 4-trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (400 mg, 0.674 mmol) was dissolved in diethylamine (16 mL), and the solution was treated with bis(triphenylphosphine)dichloropalladium (56.7 mg, 0.012 mmol), copper iodide (46.2 mg, 0.243 mmol) and methyl propargyl ether (0.398 mL, 4.72 mmol), followed by purification by preparative thin-layer chromatography (chloroform/methanol=6/1 to 8/1) to obtain 4-(3-methoxy-1-propinyl)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (250 mg, yield 72%).

reactant | 4-trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.674 mmol, 400 mg | FC(S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O)(F)F | C28H30F3N3O6S
reactant | methyl propargyl ether | 4.72 mmol, 0.398 mL | C(C#C)OC | C4H6O
solvent | diethylamine | 16 mL | C(C)NCC | C4H11N
catalyst | bis(triphenylphosphine)dichloropalladium | 0.012 mmol, 56.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.243 mmol, 46.2 mg | [Cu](I)I
product | 4-(3-methoxy-1-propinyl)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 250 mg, yield 72% | COCC#CC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C31H35N3O4
